US08247401B2
Step B: Methyl 3-(5-methylpyridin-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
To a solution of methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate (3.5 g, 11.43 mmol) in dioxane (45.7 mL) were added bis(pinacolato)diboron (3.63 g, 14.29 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.47 g, 0.57 mmol) and potassium acetate (2.24 g, 22.86 mmol). The reaction mixture was heated to 80° C. After 18 h, the reaction was cooled to ambient temperature and the mixture was filtered through Celite. The filtrate was concentrated and saturated aqueous sodium bicarbonate was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→85% dichloromethane/ethyl acetate) gave the title compound. MS 354.1 (M+1).

reactant | methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate | 11.43 mmol, 3.5 g | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C14H12BrNO2
reactant | bis(pinacolato)diboron | 14.29 mmol, 3.63 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 22.86 mmol, 2.24 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 45.7 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.57 mmol, 0.47 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | Methyl 3-(5-methylpyridin-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC=1C=CC(=NC1)C=1C=C(C(=O)OC)C=C(C1)B1OC(C(O1)(C)C)(C)C | C20H24BNO4
